US09353107B2
Step-iv: 3-(1-(3,5-difluorobenzyl)-1H-pyrazol-4-yl)-5-(3-fluoro-4-(piperidin-4-yl)phenyl)-1H-pyrrolo[2,3-b]pyridine
Using similar reaction conditions as described in step-ii of example-7, tert-butyl 4-(4-(3-(1-(3,5-difluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-fluorophenyl)piperidine-1-carboxylate (64 mg, 0.109 mmol) was deprotected in TFA/toluene (5/5 mL) to afford 14.9 mg (28.3% yield) of the titled compound after purification by preparative TLC using 6% methanol in chloroform as eluent. 1H NMR (CD3OD, 300 MHz): δ 8.48-8.47 (d, 1H), 8.38-8.37 (d, 1H), 8.25 (s, 1H), 7.96 (s, 1H), 7.66 (s, 1H), 7.53-7.39 (m, 3H), 6.92-6.86 (m, 3H), 5.44 (s, 2H), 3.24-3.20 (d, 2H), 3.09-3.07 (m, 1H), 2.87-2.80 (td, 2H), 1.89-1.77 (m, 4H). MS: m/z=488.3 (M+1), HPLC: 95.30% in method A.

reactant | tert-butyl 4-(4-(3-(1-(3,5-difluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-fluorophenyl)piperidine-1-carboxylate | 0.109 mmol, 64 mg | FC=1C=C(CN2N=CC(=C2)C2=CNC3=NC=C(C=C32)C3=CC(=C(C=C3)C3CCN(CC3)C(=O)OC(C)(C)C)F)C=C(C1)F | C33H32F3N5O2
solvent | TFA toluene | 5 mL | C(=O)(C(F)(F)F)O.C1(=CC=CC=C1)C
product | 3-(1-(3,5-difluorobenzyl)-1H-pyrazol-4-yl)-5-(3-fluoro-4-(piperidin-4-yl)phenyl)-1H-pyrrolo[2,3-b]pyridine | 14.9 mg, 28.3% yield | FC=1C=C(CN2N=CC(=C2)C2=CNC3=NC=C(C=C32)C3=CC(=C(C=C3)C3CCNCC3)F)C=C(C1)F | C28H24F3N5
